US06255333B1
1-(2,6-Dichloro-4-trifluoromethlphenyl)-4-iodo-3-methylpyrazole
To a stirred solution of 5-amino -1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodo-3-methylpyrazole (2.85 g) in tetrahydrofuran (35 ml) at 0° C. was added dropwise t-butylnitrite (2.33 ml). The reaction mixture was allowed to warm to room temperature and then heated under reflux for 1.5 hours. The reaction mixture was evaporated and the residue purified by column chromatography on silica gel eluted with dichloromethane: hexane (1:1). Combination and evaporation of suitable fractions provided a yellow oil which was further purified by column chromatography on silica gel eluted with dichloromethane: hexane (1:2). Combination and evaporation of suitable fractions provided the title compound as a white solid, m.p. 118.5-119.4° C.

reactant | 5-amino -1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodo-3-methylpyrazole | 2.85 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C)I | C11H7Cl2F3IN3
reactant | t-butylnitrite | 2.33 ml | C(C)(C)(C)ON=O | C4H9NO2
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | 1-(2,6-Dichloro-4-trifluoromethlphenyl)-4-iodo-3-methylpyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)I)C | C11H6Cl2F3IN2
